US04097671
There was added 10.08 parts of sodium bicarbonate and about 60 parts of water to a mixture of 21.3 parts of α-bromopropiophenone, 6.8 parts of sodium formate and about 90 parts of acetonitrile. The resulting mixture was stirred vigorously for 48 hours at 65° C during which time carbon dioxide evolved. After cooling, the acetonitrile solution was separated from the aqueous layer and evaporated to dryness. The residue was dissolved into chloroform which was extracted once with water, dried over sodium sulfate, and evaporated to produce analytically pure (<98%) α-hydroxy-propiophenone. The yield of this isolated product was 77.1%,

reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | α-bromopropiophenone | BrC(C(=O)C1=CC=CC=C1)C | C9H9BrO
reactant | sodium formate | C(=O)[O-].[Na+]
reactant | carbon dioxide | C(=O)=O | CO2
solvent | acetonitrile | C(C)#N | C2H3N
solvent | water | O | H2O
product | α-hydroxy-propiophenone | <98% | OC(C(=O)C1=CC=CC=C1)C | C9H10O2
